### PR TITLE
clean up proofs about rngops using a Section and Notation

### PR DESCRIPTION
**Pull request by siddharthist**
These theorems were somewhat unreadable. 
* They use common notation for ring operations 
* They are in a `Section` that logically groups them together
* The `Section` reduces the duplication in hypotheses
* Two of the proofs got two lines shorter

### CODE REVIEW

File: UniMath/Algebra/BinaryOperations.v [hunk 1]
```diff
@@ -702,102 +702,100 @@ Proof.
...
-      destruct (pathsinv0 (isrinvmultwithminus1_is_l is1 is2 is12 x)).
-      unfold unel_is. rewrite (runax_is (pr1 is1) y).
-      rewrite (isrinvmultwithminus1_is_l is1 is2 is12 y).
-      apply idpath.
-    + apply is2.
-  - apply is12.
-Defined.
+Section rngops.
+  Context {X : UU} {opp1 opp2 : binop X}
+          (is1 : isgrop opp1) (is2 : ismonoidop opp2) (is12 : isdistr opp1 opp2).
```
Comment (DanGrayson) [inline UniMath/Algebra/BinaryOperations.v]: This is strange.  Why not just put a ring into the context and use the standard ring operation notations?

Comment (DanGrayson) [reply UniMath/Algebra/BinaryOperations.v]: PS: Maybe it's because the file `Rigs_and_Rings` comes after this one.  I wonder whether it would be better just to move these lemma about ring operations to the file about rings.

Comment (siddharthist) [reply UniMath/Algebra/BinaryOperations.v]: @DanGrayson Take a look at the last theorem in this section, what's happening here is the proof that if one has a monoid structure that distributes over an abelian group structure, than one gets a ring. I think that's why it doesn't assume you have a ring.

File: UniMath/Algebra/BinaryOperations.v [hunk 2]
```diff
@@ -702,102 +702,100 @@ Proof.
...
+  Local Notation "x + y" := (opp1 x y).
+  Local Notation "x * y" := (opp2 x y).
+  Local Notation "0" := (unel_is (pr1 is1)).
+  Local Notation "1" := (unel_is (pr1 is2)).
+
+  Lemma multx0_is_l : ∏ x : X, (x * 0) = 0.
+  Proof.
+    intros.
```
Comment (mortberg) [inline UniMath/Algebra/BinaryOperations.v]: Please use `intros x`

File: UniMath/Algebra/BinaryOperations.v [hunk 3]
```diff
@@ -702,102 +702,100 @@ Proof.
...
+    destruct is12 as [ ldistr0 rdistr0 ].
+    destruct is2 as [ assoc2 [ un2 [ lun2 run2 ] ] ].
+    simpl in *.
+    apply (invmaponpathsweq (weqpair _ (isweqrmultingr_is is1 (x * un2)))).
+    simpl.
+    destruct is1 as [ [ assoc1 [ un1 [ lun1 run1 ] ] ] [ inv0 [ linv0 rinv0 ] ] ].
+    unfold unel_is. simpl in *.
+    rewrite (lun1 (x * un2)). destruct (ldistr0 un1 un2 x).
+    rewrite (run2 x). rewrite (lun1 un2). rewrite (run2 x). apply idpath.
```
Comment (mortberg) [inline UniMath/Algebra/BinaryOperations.v]: When you put rewrites on the same line like this I would combine them into one rewrite:

```
rewrite (run2 x), (lun1 un2), (run2 x); apply idpath.
```

I think it is nice if each line is a "logical" step and grouping multiple trivial rewrites into one makes the scripts nicer to step through in my opinion.

File: UniMath/Algebra/BinaryOperations.v [hunk 4]
```diff
@@ -702,102 +702,100 @@ Proof.
...
+  Defined.
+  Opaque multx0_is_l.
+
+  Lemma mult0x_is_l : ∏ x : X, (0 * x) = 0.
```
Comment (mortberg) [inline UniMath/Algebra/BinaryOperations.v]: Same comments as on the above lemma

File: UniMath/Algebra/BinaryOperations.v [hunk 5]
```diff
@@ -702,102 +702,100 @@ Proof.
...
+  Defined.
+  Opaque mult0x_is_l.
+
+  Definition minus1_is_l := ((grinv_is is1) (unel_is is2)).
+  Local Notation "¬1" := ((grinv_is is1) (unel_is is2)).
+
+  Lemma islinvmultwithminus1_is_l (x : X) : ((¬1 * x) + x) = 0.
+  Proof.
+    intros.
+    set (xinv := opp2 ¬1 x).
```
Comment (mortberg) [inline UniMath/Algebra/BinaryOperations.v]: Why this `set` when the name `xinv` is not used again?

File: UniMath/Algebra/BinaryOperations.v [hunk 6]
```diff
@@ -702,102 +702,100 @@ Proof.
...
+    rewrite (lun2 x). rewrite (lun1 un2). rewrite (lun2 x). apply idpath.
+  Defined.
+  Opaque mult0x_is_l.
+
+  Definition minus1_is_l := ((grinv_is is1) (unel_is is2)).
+  Local Notation "¬1" := ((grinv_is is1) (unel_is is2)).
+
+  Lemma islinvmultwithminus1_is_l (x : X) : ((¬1 * x) + x) = 0.
+  Proof.
+    intros.
```
Comment (mortberg) [inline UniMath/Algebra/BinaryOperations.v]: I guess this file is using `Unset Automatic Introduction`? If so please call this x, otherwise remove this intros.

File: UniMath/Algebra/BinaryOperations.v [hunk 7]
```diff
@@ -702,102 +702,100 @@ Proof.
...
+    set (xinv := opp2 ¬1 x).
+    rewrite (pathsinv0 (lunax_is is2 x)).
+    unfold xinv.
+    rewrite (pathsinv0 (pr2 is12 _ _ x)).
+    rewrite (grlinvax_is is1 _). apply mult0x_is_l.
+  Defined.
+  Opaque islinvmultwithminus1_is_l.
+
+  Lemma isrinvmultwithminus1_is_l (x : X) : (x + (¬1 * x)) = 0.
```
Comment (mortberg) [inline UniMath/Algebra/BinaryOperations.v]: Same comments are above lemma

File: UniMath/Algebra/BinaryOperations.v [hunk 8]
```diff
@@ -702,102 +702,100 @@ Proof.
...
+    apply (invmaponpathsweq (weqpair _ (isweqrmultingr_is is1 x))).
+    simpl. rewrite (islinvmultwithminus1_is_l x).
+    unfold grinv_is. rewrite (grlinvax_is is1 x). apply idpath.
+  Defined.
+  Opaque isminusmultwithminus1_is_l.
+
+  Lemma isrngopsif : isrngops opp1 opp2.
+  Proof.
+    intros.
+    set (assoc1 := pr1 (pr1 is1)).
```
Comment (mortberg) [inline UniMath/Algebra/BinaryOperations.v]: Is there not an accessor function for this?

File: UniMath/Algebra/BinaryOperations.v [hunk 9]
```diff
@@ -702,102 +702,100 @@ Proof.
...
+    intros.
+    apply (invmaponpathsweq (weqpair _ (isweqrmultingr_is is1 x))).
+    simpl. rewrite (islinvmultwithminus1_is_l x).
+    unfold grinv_is. rewrite (grlinvax_is is1 x). apply idpath.
+  Defined.
+  Opaque isminusmultwithminus1_is_l.
+
+  Lemma isrngopsif : isrngops opp1 opp2.
+  Proof.
+    intros.
```
Comment (mortberg) [inline UniMath/Algebra/BinaryOperations.v]: Is this `intros` really doing anything?

File: UniMath/Algebra/BinaryOperations.v (hunk 7 above)
Comment (siddharthist) [reply UniMath/Algebra/BinaryOperations.v]: Done

Comment (mortberg) [reply UniMath/Algebra/BinaryOperations.v]: Great!

File: UniMath/Algebra/BinaryOperations.v (hunk 1 above)
Comment (DanGrayson) [reply UniMath/Algebra/BinaryOperations.v]: Oh, well, that was Voevodsky's organization, anyway, so let's not change anything.

**Comment by DanGrayson** [comment]
lgtm

File: UniMath/Algebra/BinaryOperations.v [hunk 10]
```diff
@@ -702,102 +702,99 @@ Proof.
...
+    apply (invmaponpathsweq (weqpair _ (isweqrmultingr_is is1 (un2 * x)))).
+    simpl.
+    destruct is1 as [ [ assoc1 [ un1 [ lun1 run1 ] ] ] [ inv0 [ linv0 rinv0 ] ] ].
+    unfold unel_is. simpl in *.
+    rewrite (lun1 (opp2 un2 x)). destruct (rdistr0 un1 un2 x).
+    rewrite (lun2 x), (lun1 un2), (lun2 x); apply idpath.
+  Defined.
+  Opaque mult0x_is_l.
+
+  Definition minus1_is_l := ((grinv_is is1) (unel_is is2)).
```
Comment (benediktahrens) [inline UniMath/Algebra/BinaryOperations.v]: It is good practice to give the type of a constant at definition time.

**Comment by siddharthist** [comment]
Comments addressed; rebased.

File: UniMath/Algebra/BinaryOperations.v [hunk 11]
```diff
@@ -702,102 +702,99 @@ Proof.
...
+    simpl.
+    destruct is1 as [ [ assoc1 [ un1 [ lun1 run1 ] ] ] [ inv0 [ linv0 rinv0 ] ] ].
+    unfold unel_is. simpl in *.
+    rewrite (lun1 (opp2 un2 x)). destruct (rdistr0 un1 un2 x).
+    rewrite (lun2 x), (lun1 un2), (lun2 x); apply idpath.
+  Defined.
+  Opaque mult0x_is_l.
+
+  Definition minus1_is_l : X := ((grinv_is is1) (unel_is is2)).
+  Local Notation "¬1" := ((grinv_is is1) (unel_is is2)).
```
Comment (DanGrayson) [inline UniMath/Algebra/BinaryOperations.v]: Is "-1" not feasible here?

Comment (DanGrayson) [reply UniMath/Algebra/BinaryOperations.v]: I'll try it ...

Comment (DanGrayson) [reply UniMath/Algebra/BinaryOperations.v]: The file `Rigs_and_Rings` shows how to do it.  In fact, those notations should be in just one place, so it's best to move them from `Rigs_and_Rings` to `BinaryOperations` for the purpose.  

The whole point seems to be to add a level 0 option to the "-1" notation declaration:
```
Notation "-1" := (rngminus1) (at level 0) : rng_scope.
```

**Comment by DanGrayson** [comment]
I will take another look at this ...

**Comment by DanGrayson** [comment]
Here is the way to use "-1" instead of "¬1":

```
diff --git a/UniMath/Algebra/BinaryOperations.v b/UniMath/Algebra/BinaryOperations.v
index 1499ec85..d56e3290 100644
--- a/UniMath/Algebra/BinaryOperations.v
+++ b/UniMath/Algebra/BinaryOperations.v
@@ -740,12 +740,12 @@ Section rngops.
   Opaque mult0x_is_l.
 
   Definition minus1_is_l : X := ((grinv_is is1) (unel_is is2)).
-  Local Notation "¬1" := ((grinv_is is1) (unel_is is2)).
+  Local Notation "-1" := ((grinv_is is1) (unel_is is2)) (at level 0).
 
-  Lemma islinvmultwithminus1_is_l (x : X) : ((¬1 * x) + x) = 0.
+  Lemma islinvmultwithminus1_is_l (x : X) : ((-1 * x) + x) = 0.
   Proof.
     intros x.
-    set (xinv := opp2 ¬1 x).
+    set (xinv := opp2 -1 x).
     rewrite (pathsinv0 (lunax_is is2 x)).
     unfold xinv.
     rewrite (pathsinv0 (pr2 is12 _ _ x)).
@@ -753,10 +753,10 @@ Section rngops.
   Defined.
   Opaque islinvmultwithminus1_is_l.
 
-  Lemma isrinvmultwithminus1_is_l (x : X) : (x + (¬1 * x)) = 0.
+  Lemma isrinvmultwithminus1_is_l (x : X) : (x + (-1 * x)) = 0.
   Proof.
     intros x.
-    set (xinv := (¬1 * x)).
+    set (xinv := (-1 * x)).
     rewrite (pathsinv0 (lunax_is is2 x)). unfold xinv.
     rewrite (pathsinv0 (pr2 is12 _ _ x)). unfold grinv_is.
     rewrite (grrinvax_is is1 _).
@@ -764,7 +764,7 @@ Section rngops.
   Defined.
   Opaque isrinvmultwithminus1_is_l.
 
-  Lemma isminusmultwithminus1_is_l (x : X) : ¬1 * x = (grinv_is is1 x).
+  Lemma isminusmultwithminus1_is_l (x : X) : -1 * x = (grinv_is is1 x).
   Proof.
     intros x.
     apply (invmaponpathsweq (weqpair _ (isweqrmultingr_is is1 x))).
@@ -781,14 +781,14 @@ Section rngops.
       + split with is1.
         intros x y.
         apply (invmaponpathsweq
-                (weqpair _ (isweqrmultingr_is is1 (¬1 * (x + y))))).
+                (weqpair _ (isweqrmultingr_is is1 (-1 * (x + y))))).
         simpl. rewrite (isrinvmultwithminus1_is_l (x + y)).
         rewrite (pr1 is12 x y _).
-        destruct (assoc1 (y + x) (¬1 * x) (¬1 * y)).
+        destruct (assoc1 (y + x) (-1 * x) (-1 * y)).
         rewrite (assoc1 y x _).
         destruct (pathsinv0 (isrinvmultwithminus1_is_l x)).
         unfold unel_is. rewrite (runax_is (pr1 is1) y).
-        change (grinv_is is1 (pr1 (pr2 is2)) * y) with (¬1 * y).
+        change (grinv_is is1 (pr1 (pr2 is2)) * y) with (-1 * y).
         rewrite (isrinvmultwithminus1_is_l y).
         apply idpath.
       + apply is2.
```

**Comment by siddharthist** [comment]
@DanGrayson Thanks for helping to clean up my PRs! Much appreciated.

**Comment by siddharthist** [comment]
Fixed conflicts.

**Comment by benediktahrens** [comment]
Is anybody still interested in this PR?
From what I understand, the only thing to do is change `¬1` to `-1`.

**Comment by DanGrayson** [comment]
Well, if anyone is going to fix it up, it occurs to me, belatedly, that the notation could be improved even more.  For example, `¬1 * x = (grinv_is is1 x)` would look better as `-1*x=-x`.

**Comment by benediktahrens** [comment]
On 17/11/2018 15:38, Daniel R. Grayson wrote:
> Well, if anyone is going to fix it up, it occurs to me, belatedly, that 
> the notation could be improved even more. For example, |¬1 * x = 
> (grinv_is is1 x)| would look better as |-1*x=-x|.

The best is the enemy of the good...

**Comment by DanGrayson** [comment]
Well, I have high aspirations.  I'd be happy to clean it up...

**Comment by siddharthist** [comment]
I don't think I'll get around to fixing the conflicts here. I'll leave the branch alive in my fork if anyone wants to take that on. Apologies!
